US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 5-aminoindole were reacted to yield N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[(1H)-indol-5-yl]-2,4-pyrimidinediamine. LCMS: ret. time: 20.37 min.; purity: 97%; MS (m/e): 378 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[(1H)-indol-5-yl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=C2C=CNC2=CC1 | C20H16FN5O2
